US03997589
Isopropyl 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyrate
Prepared analogous to Example 2 from 2-fluoro-biphenyl and isopropyl succinate chloride. Melting point 65°-66° C (from cyclohexane/petroleum ether).

reactant | 2-fluoro-biphenyl | FC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9F
reactant | isopropyl succinate chloride | [Cl-].C(CCC(=O)[O-])(=O)OC(C)C
product | Isopropyl 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyrate | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)OC(C)C)=O | C19H19FO3
